US07662831B2
Following the procedure in Example 1, Step 4, 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine (0.12 g, 0.50 mmol), hexanoyl chloride (0.072 mL, 0.52 mmol) and poly-(4-vinylpyridine) (700 mg) in dichloromethane (10 mL) provided 0.14 g of N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-ylhexanamide. MS (ESI) m/z 339;

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine | 0.50 mmol, 0.12 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)N | C16H20N2
reactant | hexanoyl chloride | 0.52 mmol, 0.072 mL | C(CCCCC)(=O)Cl | C6H11ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-ylhexanamide | 0.14 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)NC(CCCCC)=O | C22H30N2O
